US08629137B2
7-methoxy-3-{1-[5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6-oxo-5.6-dihydro-pyridazin-3-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
0.10 g (1.0 mmol) potassium acetate were added to 0.13 g (0.20 mmol) 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one (mixture) in 3 mL acetic acid and the mixture was boiled under a nitrogen atmosphere for 7 h. Then the reaction mixture was evaporated down and the residue was triturated with water, suction filtered and dried. The residue was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | potassium acetate | 1.0 mmol, 0.10 g | C(C)(=O)[O-].[K+]
reactant | 3-{1-[6-chloro-5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyridazin-3-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.20 mmol, 0.13 g | ClC1=C(C=C(N=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(NC(O1)=O)C(=C2)C | C28H27ClN6O5
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 7-methoxy-3-{1-[5-(4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6-oxo-5.6-dihydro-pyridazin-3-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C=2N=NC(C(C2)C(=O)C2=CC3=C(NC(O3)=O)C(=C2)C)=O)=O)C=C1 | C28H28N6O6
